US05763359
9. Preparation of 5-Chloro-1-ethyl-3-(trifluoromethyl)pyrazole-4-carboxylic Acid
A mixture of 29.5 g (131 mmol) of 5-chloro-1-ethyl-3-(trifluoromethyl)-pyrazole-4-carboxaldehyde in 350 mL of distilled water was prepared and 0.733 g (131 mmol) of potassium hydroxide and 20.6 g (131 mmol) of potassium permanganate were added to it. The mixture was heated to 60° C. with stirring for 2 hours. The color turned from purple to dark brown. An aliquot was taken, filtered to remove the solids, acidified, and analyzed by gas chromatography to determine that the reaction was complete. The reaction mixture was then filtered to remove the solids and the filtrate was acidified to pH 2. The precipitate that formed was recovered by filtration and washed with water to obtain a white solid. This solid was partially dissolved in hot dichloromethane and the insoluble portion removed by gravity fIltration. The filtrate was concentrated by evaporation under reduced pressure to obtain 23.4 g of the title compound as a white solid melting at 164°-166° C.

reactant | 5-chloro-1-ethyl-3-(trifluoromethyl)-pyrazole-4-carboxaldehyde | 131 mmol, 29.5 g | ClC1=C(C(=NN1CC)C(F)(F)F)C=O | C7H6ClF3N2O
reactant | potassium hydroxide | 131 mmol, 0.733 g | [OH-].[K+]
reactant | potassium permanganate | 131 mmol, 20.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 350 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-1-ethyl-3-(trifluoromethyl)pyrazole-4-carboxylic Acid | 23.4 g | ClC1=C(C(=NN1CC)C(F)(F)F)C(=O)O | C7H6ClF3N2O2
